US08664229B2
Stage 2: 3,3,3-Trifluoro-N-[4-methyl-2-(pyridin-3-yl)-1,3-thiazol-5-yl]propanamide
286 mg (1.49 mmol) of 4-methyl-2-(pyridin-3-yl)-1,3-thiazole-5-amine were dissolved in THF, 0.52 ml of triethylamine was added, and 263 mg of trifluoropropionyl chloride were added while cooling with an ice bath. The mixture was stirred at room temperature overnight and then concentrated. Ethyl acetate, saturated sodium chloride solution and aqueous phosphate buffer pH=7 were added to the residue, the aqueous phase was extracted twice with ethyl acetate, and the combined organic phases were dried over Na2SO4 and concentrated. The residue was purified by chromatography (silica gel, cyclohexane, acetone).

reactant | 4-methyl-2-(pyridin-3-yl)-1,3-thiazole-5-amine | 1.49 mmol, 286 mg | CC=1N=C(SC1N)C=1C=NC=CC1 | C9H9N3S
reactant | triethylamine | 0.52 ml | C(C)N(CC)CC | C6H15N
reactant | trifluoropropionyl chloride | 263 mg | FC(CC(=O)Cl)(F)F | C3H2ClF3O
solvent | THF | C1CCOC1 | C4H8O
product | 3,3,3-Trifluoro-N-[4-methyl-2-(pyridin-3-yl)-1,3-thiazol-5-yl]propanamide | FC(CC(=O)NC1=C(N=C(S1)C=1C=NC=CC1)C)(F)F | C12H10F3N3OS
